### PR TITLE
[Merged by Bors] - feat: convenience theorems for uniform convergence

### PR DESCRIPTION
**Pull request by j-loreaux**
---

from [LeanOA](https://github.com/j-loreaux/LeanOA)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/UniformConvergence.lean [hunk 1]
```diff
@@ -351,6 +351,66 @@ theorem UniformContinuous₂.tendstoUniformly [UniformSpace α] [UniformSpace γ
...
+
+/-- An anologue of `Filter.HasBasis.tendsto_right_iff` for `TendstoUniformlyOn`. -/
+lemma tendstoUniformlyOnFilter_iff {F : X → α → β} {f : α → β}
+    {l : Filter X} {l' : Filter α} {pX : ιX → Prop} {sX : ιX → Set X}
+    {pα : ια → Prop} {sα : ια → Set α} {pβ : ιβ → Prop} {sβ : ιβ → Set (β × β)}
+    (hl : l.HasBasis pX sX) (hl' : l'.HasBasis pα sα)
+    (hβ : (uniformity β).HasBasis pβ sβ) :
+    TendstoUniformlyOnFilter F f l l' ↔
+      (∀ i, pβ i → ∃ j k, (pX j ∧ pα k) ∧ ∀ x a, x ∈ sX j → a ∈ sα k → (f a, F x a) ∈ sβ i) := by
+  simp [hβ.uniformity_tendstoUniformlyOnFilter_iff, (hl.prod hl').eventually_iff]
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/UniformConvergence.lean:376]: I'm extremely surprised that we don't have these, but I can't find them and the proof of [EMetric.tendstoLocallyUniformly_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/EMetricSpace/Basic.html#EMetric.tendstoLocallyUniformly_iff) seems to point in that direction.

File: Mathlib/Topology/UniformSpace/UniformConvergence.lean [hunk 2]
```diff
@@ -351,6 +351,66 @@ theorem UniformContinuous₂.tendstoUniformly [UniformSpace α] [UniformSpace γ
...
+/-- An anologue of `Filter.HasBasis.tendsto_right_iff` for `TendstoUniformlyOnFilter`. -/
+lemma uniformity_tendstoUniformlyOnFilter_iff {F : X → α → β} {f : α → β}
+    {l : Filter X} {l' : Filter α} {pβ : ιβ → Prop} {sβ : ιβ → Set (β × β)}
+    (hβ : (uniformity β).HasBasis pβ sβ) :
+    TendstoUniformlyOnFilter F f l l' ↔
+      (∀ i, pβ i → ∀ᶠ n in l ×ˢ l', (f n.2, F n.1 n.2) ∈ sβ i) := by
+  rw [TendstoUniformlyOnFilter, hβ.forall_iff]
+  exact fun _ _ _ h ↦ h.mp <| .of_forall <| by aesop
+
+/-- An anologue of `Filter.HasBasis.tendsto_right_iff` for `TendstoUniformlyOn`. -/
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/UniformConvergence.lean:368]:
```suggestion
/-- An anologue of `Filter.HasBasis.tendsto_iff` for `TendstoUniformlyOn`. -/
```

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 3]
```diff
@@ -318,8 +325,43 @@ theorem tendsto_iff_tendstoUniformly :
...
   exact ⟨fun h => h univ isCompact_univ, fun h K _hK => h.mono (subset_univ K)⟩
 
+open UniformFun in
+/-- When `α` is compact, `f : X → C(α, β)` is continuous if any only if it is continuous when
+reinterpreted as a map `f : X → α →ᵤ β`. -/
+theorem continuous_iff_continuous_uniformFun {X : Type*} [TopologicalSpace X] (f : X → C(α, β)) :
+    Continuous f ↔ Continuous (fun x ↦ ofFun (f x)) := by
+  rw [continuous_iff_continuous_uniformOnFun]
+  exact UniformOnFun.uniformEquivUniformFun β _ isCompact_univ
+    |>.isUniformInducing.isInducing.continuous_iff
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean:335]: Could you also add the `IsUniformEmbedding` statement? I think it can be useful.

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 4]
```diff
@@ -318,8 +325,43 @@ theorem tendsto_iff_tendstoUniformly :
...
 
+section ContinuousOnRestrict
+
+/-- Given functions `F i, f` which are continuous on a compact set `s`, `F` tends to `f`
+uniformly on `s` if and only if the restrictions (as elements of `C(s, β)`) converge. -/
+theorem _root_.ContinuousOn.tendsto_restrict_iff_tendstoUniformlyOn {s : Set α} [CompactSpace s]
+    {f : α → β} (hf : ContinuousOn f s) {ι : Type*} {p : Filter ι}
+    {F : ι → α → β} (hF : ∀ i, ContinuousOn (F i) s) :
+    Tendsto (fun i ↦ ⟨_, (hF i).restrict⟩ : ι → C(s, β)) p (𝓝 ⟨_, hf.restrict⟩) ↔
+      TendstoUniformlyOn F f p s := by
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean:347]: What is the use case for this and the following? I think I understand why working around them would be painful, but it does sound a bit niche.

File: Mathlib/Topology/MetricSpace/UniformConvergence.lean [hunk 5]
```diff
@@ -0,0 +1,45 @@
...
+    _ ≤ ε := by
+      rw [← mul_div_assoc, div_le_iff₀' (by positivity)]
+      gcongr
+      simp
+
+/-- If `f : X → α →ᵤ β` is Lipschitz for each fixed `a ∈ s ∈ 𝔖`, with Lipschitz
+constant depending on `s`, then `f` is continuous. -/
+lemma UniformFun.continuous_of_lipschitzWith {f : X → α →ᵤ β} (C : ℝ≥0)
+    (hf : ∀ a, LipschitzWith C (fun x ↦ toFun (f x) a)) :
+    Continuous f := by
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/UniformConvergence.lean:45]: This looks like an equicontinuity statement (see [equicontinuous_iff_continuous](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/Equicontinuity.html#equicontinuous_iff_continuous)). 

I find myself thinking in terms of equicontinuity a lot more than usually done on paper. What is your use case ?

Comment (ADedecker) [reply Mathlib/Topology/MetricSpace/UniformConvergence.lean:45]: Also, in that setup, I think it's much more natural to deduce the `UniformOnFun` version from this one: it's just playing with universal properties.

**Review by ADedecker — COMMENTED** [review]
I will have a closer look tomorrow.

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/Topology/UniformSpace/CompactConvergence.lean:347]: The use case is [here](https://github.com/leanprover-community/mathlib4/pull/24866/files#diff-d5360be9e669b07b8f7e2c7b9fc25d571ee11786582ac3b3e935e59b1c9b49f7R61#L61-62). While I admit it's a bit specialized, I don't think it's too unreasonable, but if you prefer I can inline that proof. (I did use it twice in that file though)

File: Mathlib/Topology/MetricSpace/UniformConvergence.lean (hunk 5 above)
Comment (j-loreaux) [reply Mathlib/Topology/MetricSpace/UniformConvergence.lean:45]: Hmmm... that's a fair point. Admittedly, my use case for this vanished after I took a different path, so I don't strictly need these anymore, but I thought they would be useful. Perhaps it's better to have a Lipschitz → Equicontinuous result though.

File: Mathlib/Topology/UniformSpace/UniformConvergence.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Topology/UniformSpace/UniformConvergence.lean:376]: I could not find them either.

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/CompactConvergence.lean:347]: Okay this is the kind of things I was expecting. We can keep this lemma then.

File: Mathlib/Topology/MetricSpace/UniformConvergence.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/Topology/MetricSpace/UniformConvergence.lean:45]: Actually, here's what I think should be done:
- put a `EMetric` structure on `α →ᵤ β` by simply taking the supremum
- show that Lipschitzness of a map to `α →ᵤ β` is Lipschitzness of each projection with uniform constant
- then your statement is just [LipschitzWith.continuous](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/EMetricSpace/Lipschitz.html#LipschitzWith.continuous) (so a separate statement is not needed)
- and we deduce the equicontinuity criterion from it

You don't have to do this in this PR of course (and it would be a nice and small student project I think).

Comment (j-loreaux) [reply Mathlib/Topology/MetricSpace/UniformConvergence.lean:45]: Yes, that makes sense, but indeed I will save it for a future PR.

**Review by ADedecker — APPROVED** [review]
Sorry for the delay...

bors d+

File: Mathlib/Topology/UniformSpace/UniformConvergence.lean [hunk 6]
```diff
@@ -351,6 +351,66 @@ theorem UniformContinuous₂.tendstoUniformly [UniformSpace α] [UniformSpace γ
     (h : UniformContinuous₂ f) : TendstoUniformly f (f x) (𝓝 x) :=
   UniformContinuousOn.tendstoUniformly univ_mem <| by rwa [univ_prod_univ, uniformContinuousOn_univ]
 
+
+namespace Filter.HasBasis
+
+variable {X ιX ια ιβ : Type*}
+
+/-- An anologue of `Filter.HasBasis.tendsto_right_iff` for `TendstoUniformlyOnFilter`. -/
+lemma uniformity_tendstoUniformlyOnFilter_iff {F : X → α → β} {f : α → β}
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Topology/UniformSpace/UniformConvergence.lean]: That's fine.

**Comment by j-loreaux** [comment]
bors merge
